US09034900B2
Step 2: 5-bromo-6-(2,4-difluorophenoxy)pyridin-3-amine
A mixture of 3-bromo-2-(2,4-difluorophenoxy)-5-nitropyridine (1.9 g, 5.9 mmol), ammonium chloride (637 mg, 11.8 mmol), and iron powder (1.65 g, 30 mmol) suspended in THF (10 mL), water (3 mL) and ethanol (10 mL) was heated to 90° C. using microwave irradiation (normal) for 5 h. The crude reaction mixture was filtered through a short plug of celite; the celite plug was washed with warm (50° C.) MeOH (˜50 mL). The resulting filtrate was concentrated in vacuo. The resulting residue was diluted with EtOAc (100 ml) and washed with saturated bicarbonate solution (aq), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to afford the title compound, (824 mg, 46%). LCMS (M+H)+=302.

reactant | 3-bromo-2-(2,4-difluorophenoxy)-5-nitropyridine | 5.9 mmol, 1.9 g | BrC=1C(=NC=C(C1)[N+](=O)[O-])OC1=C(C=C(C=C1)F)F | C11H5BrF2N2O3
reactant | ammonium chloride | 11.8 mmol, 637 mg | [Cl-].[NH4+]
reactant | water | 3 mL | O | H2O
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | iron | 30 mmol, 1.65 g | [Fe] | Fe
product | 5-bromo-6-(2,4-difluorophenoxy)pyridin-3-amine | 824 mg, 46% | BrC=1C=C(C=NC1OC1=C(C=C(C=C1)F)F)N | C11H7BrF2N2O
